US04814341
N,N-Dimethyl-5-acetylfuran-2-carboxamide
To a stirred solution of 9.1 g. (0.053 mole) of 5-acetylfuran-2-carbonyl chloride in 150 ml. of tetrahydrofuran at ca -30° C. was added, dropwise, 7.0 ml. (0.106 mole) of dimethylamine. Stirring was continued, and the reaction mixture was allowed to warm to room temperature and then stirred overnight. The tetrahydrofuran was removed by evaporation in vacuo, and the residue was diluted with water and extracted with ethyl acetate. The extracts were washed with water, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography on silica gel, eluting with 1:20 methanol-chloroform, to give 7.33 g. of the title compound as a solid, mp 101°-104° C. A small sample was recrystallized from cyclohexane to give a pale yellow solid, mp. 104°-106° C.

reactant | 5-acetylfuran-2-carbonyl chloride | 0.053 mole | C(C)(=O)C1=CC=C(O1)C(=O)Cl | C7H5ClO3
reactant | dimethylamine | 0.106 mole | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N-Dimethyl-5-acetylfuran-2-carboxamide | CN(C(=O)C=1OC(=CC1)C(C)=O)C | C9H11NO3
